US06251936B1
2-Amino-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol
Using a procedure similar to Tet. Lett. 1990, 1181-1182, Montmorillinite K10 clay (425 mg) was added to a solution of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol (0.608 g, 1.42 mmol), anhydrous hydrazine (0.276 mL, 8.95 mmol) and ethanol (4.2 mL) and the suspension was heated at 85° C. for 30 min. The reaction mixture was cooled to room temperature, added to water and extracted with ether. The ether was dried and concentrated to provide the title compound as a white solid (0.576 g, 100%): mp 173-175° C.: NMR (DMSO-d6); δ9.26 (s, 1H), 8.14 (dd, J=8, 1 Hz, 1H), 7.63-7.58 (m, 2 H), 7.42 (ddd, J=8, 6, 1 Hz, 1H), 6.78 (d, J=8 Hz, 1H), 6.54 (d, J=2 Hz, 1H), 6.35 (dd, J=8, 2 Hz, 1H), 4.67 (broad s, 2H), 2.42 (s, 3H), 1.69 (s, 3H); MS (+FAB): 1 bromine isotope pattern 398 (30%, M+H), 400 (30%, M+H); Anal. Calc. for C20H16BrNOS: C, 60.31; H, 4.05; N, 3.52; Found: C, 61.36; H, 4.08; N, 3.25.

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol | 1.42 mmol, 0.608 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C=C2)O)[N+](=O)[O-] | C20H14BrNO3S
reactant | hydrazine | 8.95 mmol, 0.276 mL | NN | H4N2
reactant | ethanol | 4.2 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.576 g, 100% | NC1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O | C20H16BrNOS
